US05393875
Analogously to the procedure described in Example 1, paragraph (c), by condensing (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol and Fmoc-norleucine there was obtained 9H-fluoren-9-ylmethyl [(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]pentyl]carbamate which, after reaction with piperidine in methylene chloride, yielded (S)-2-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]hexanamide as a colourless foam, MS: 322 (M-H2)+.

reactant | (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
reactant | Fmoc-norleucine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCCC)C(=O)O | C21H23NO4
product | 9H-fluoren-9-ylmethyl [(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]pentyl]carbamate | C1(CCCCC1)C[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(=O)[C@H](CCCC)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C34H46N2O5
